US07713994B2
(4Z)-N,N-Dimethyl-1,3-dioxo-4-({[4-(piperidinylmethyl)phenyl]amino}methylene)-1,2,3,4-tetrahydroisoquinoline-6-carboxamide
Prepared from a solution of 70 mg (0.255 mmol) of 4-methoxymethylene-1,3-dioxo-1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid dimethylamide and 48.5 mg (0.255 mmol) of 4-piperidin-1-ylmethyl-phenylamine in 1.6 mL of N,N-dimethylformamide (DMF) at 110° C. under N2 as described for example 21. After heating for 0.25 h, the reaction is chilled in ice. The solid product is collected, washed with N,N-dimethylformamide (DMF) and Et2O and dried to give 82.4 mg (74%) of bright yellow crystals: mp 266-267° C. (dec); 1H NMR (DMSO-d6) δ 12.45 (d, 1H, J=9 Hz), 11.40 (s, 1H), 8.95 (d, 1H, J=9 Hz), 8.17 (s, 1H), 8.06 (d, 1H, J=6 Hz), 7.53 (d, 2H, J=9 Hz), 7.32 (d, 2H, J=9 Hz), 7.20 (d, 1H, J=6 Hz), 3.42 (s, 2H), 3.04 (s, 3H), 2.90 (s, 3H), 2.32 (s, 4H), 1.48 (m, 4H), 1.38 (s, 2H); HRMS (ESI) m/e calcd for C25H28N4O3 431.20886, fond 431.20820 (M−H)−1.

reactant | 4-methoxymethylene-1,3-dioxo-1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid dimethylamide | 0.255 mmol, 70 mg | CN(C(=O)C=1C=C2C(C(NC(C2=CC1)=O)=O)=COC)C | C14H14N2O4
reactant | 4-piperidin-1-ylmethyl-phenylamine | 0.255 mmol, 48.5 mg | N1(CCCCC1)CC1=CC=C(C=C1)N | C12H18N2
solvent | N,N-dimethylformamide | 1.6 mL | CN(C=O)C | C3H7NO
product | (4Z)-N,N-Dimethyl-1,3-dioxo-4-({[4-(piperidinylmethyl)phenyl]amino}methylene)-1,2,3,4-tetrahydroisoquinoline-6-carboxamide | 82.4 mg, 74% | CN(C(=O)C=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)CN1CCCCC1)C | C25H28N4O3
